US07582629B2
2-Butyl-4-[(2,5-diethoxy-4-morpholin-4-ylphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 2,5-diethoxy-4-morpholin-4-ylaniline in a similar manner as described for e.g. Examples 6-9, 22-25, 28 and 32-35. 1H NMR (400 MHz, CD3CN): δ 7.46 (bs, 1H), 7.27-7.22 (m, 1H), 7.18-7.09 (m, 4H), 6.25 (d, 2H), 3.86-3.80 (m, 2H), 3.76-3.70 (m, 6H), 3.53-3.47 (m, 2H), 2.91-2.87 (m, 4H), 1.85-1.77 (m, 2H), 1.52-1.42 (m, 2H), 1.36 (t, 3H), 1.22 (t, 3H), 0.99 (t, 3H); Mass Spectrum: M+H+ 530.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 2,5-diethoxy-4-morpholin-4-ylaniline | C(C)OC1=C(N)C=C(C(=C1)N1CCOCC1)OCC | C14H22N2O3
product | 2-Butyl-4-[(2,5-diethoxy-4-morpholin-4-ylphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)NC1=C(C=C(C(=C1)OCC)N1CCOCC1)OCC)C1=CC=CC=C1)(=O)=O | C27H35N3O6S
